US07037987B2
Synthesis of N-(2,6-diisopropylphenyl)-N′-(2-hydroxy-3-(adamant-1-yl)-5-methylphenyl)-oxalamide
N-(2,6-Diisopropylphenyl)-N′-(2-hydroxy-5-methylphenyl)-oxalamide (5.59 g, 15.5 mmol, 1.0 eq), prepared according to the synthesis method described in Example 8, and 1-adamantol (2.83 g, 18.6 mmol, 1.2 eq) were dissolved in CH2Cl2 (150 ml), forming a suspension. To this suspension was then added concentrated H2SO4 (1 ml). After addition of the acid, the solids eventually went into solution. After stirring at room temperature for 24 hours, the TLC (9:1 hexanes:ethyl acetate, visualized by UV) showed that most of the starting material had gone to product. At this point, the solvent was removed under reduced pressure, and the resulting solids were redissolved in ethyl acetate (100 ml). The resulting solution was then washed with saturated NaHCO3 (3×50 ml, gas is evolved), and brine, then dried over MgSO4. The solvent was removed under reduced pressure, and the resulting solid was purified via column chromatography to give a product, light yellow solid (3.68 g, 7.5 mmol, 48%). 1H NMR (300 MHz, CDCl3) δ 9.51 (s, 1H), 8.77 (s, 1H), 7.84 (s, 1H), 7.37 (t, J=7.2 Hz 1H), 7.23 (d, J=7.5 Hz, 2H), 7.00 (d, J=2.1 Hz, 1H), 6.94 (d, J=1.8 Hz, 1H), 3.01 (septet, J=6.9, 2H), 2.29 (s, 3H), 2.18 (bs, 6H), 2.10 (bs, 3H), 1.80 (bs, 6H), 1.22 (d, J=6.9, 12H); 13C NMR (75 MHz, CDCl3) δ 158.3, 158.2, 146.2, 145.8, 140.6, 129.9, 129.2, 129.2, 126.8, 124.7, 123.8, 120.9, 40.7, 37.3, 37.1, 29.1, 29.0, 23.6, 20.8. Anal. Calcd for C31H40N2O3: C, 76.19; H, 8.25; N, 5.73. Found: C, 75.89; H, 8.42; N, 5.37.

reactant | N-(2,6-Diisopropylphenyl)-N′-(2-hydroxy-5-methylphenyl)-oxalamide | 15.5 mmol, 5.59 g, 1.0 eq | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C(=O)NC1=C(C=CC(=C1)C)O)=O | C21H26N2O3
reactant | 1-adamantol | 18.6 mmol, 2.83 g, 1.2 eq | C1C2CC3CC1CC(C2)(C3)O | C10H16O
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2,6-diisopropylphenyl)-N′-(2-hydroxy-3-(adamant-1-yl)-5-methylphenyl)-oxalamide | 7.5 mmol, 3.68 g, 48% | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C(=O)NC1=C(C(=CC(=C1)C)C12CC3CC(CC(C1)C3)C2)O)=O | C31H40N2O3
